US07119109B2
b) 4-Azido-1,1,1-trifluoro-2-butanol
A solution of 1,1,1-trifluoro-4-iodo-2-butanol (0.604 g, 2.38 mmol) in DMSO (4 mL) was treated with sodium azide (0.178 g, 2.74 mmol) at ambient temperature, followed by heating at 50° C. for 21 h. The mixture was diluted with cold water and extracted with ethyl acetate. The combined organic extracts were washed (brine), dried, and evaporated to give the product as a pale yellow oil (0.372 g, 92%).

reactant | 1,1,1-trifluoro-4-iodo-2-butanol | 2.38 mmol, 0.604 g | FC(C(CCI)O)(F)F | C4H6F3IO
reactant | sodium azide | 2.74 mmol, 0.178 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-Azido-1,1,1-trifluoro-2-butanol | 0.372 g, 92% | N(=[N+]=[N-])CCC(C(F)(F)F)O | C4H6F3N3O
